US07994196B2
To a mixture of 1-(tert-butoxycarbonyl)-1,2,5,6-tetrahydropyridine-3-carboxylic acid (synthesized according to the method described in Bioorg. Med. Chem., 8, 5, 2000, 1041-1058, 3.9 g), triethylamine (2.87 ml) and benzene (12 ml) was added diphenylphosphoryl azide (Aldrich Co., 4.44 ml) under ice-cooling, and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was passed through a silica gel filter, and the filtrate was evaporated under reduced pressure to give a pale-yellow oil. Toluene (20 ml) was added to the oil, and the mixture was heated under reflux for 2 hr. The solvent was evaporated under reduced pressure. Dichloromethane (35 ml) and lead tetracetate (5.70 g) were added to the obtained residue. Thereafter, 1-aminobenzotriazole (Aldrich Co., 1.54 g) was dissolved in dichloromethane (15 ml) was added thereto. The mixture was stirred at room temperature for 30 min. The reaction mixture was filtered, and the filtrate was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give 6-oxo-1,4,5,6-tetrahydrobenzo[c]-1,7-naphthyridine-3(2H)-carboxylic acid tert-butyl ester (1.14 g, yield 33%).

reactant | 1-(tert-butoxycarbonyl)-1,2,5,6-tetrahydropyridine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(=CCC1)C(=O)O | C11H17NO4
reactant | triethylamine | 2.87 ml | C(C)N(CC)CC | C6H15N
reactant | benzene | 12 ml | C1=CC=CC=C1 | C6H6
reactant | diphenylphosphoryl azide | 4.44 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-oxo-1,4,5,6-tetrahydrobenzo[c]-1,7-naphthyridine-3(2H)-carboxylic acid tert-butyl ester | 1.14 g, yield 33% | C(C)(C)(C)OC(=O)N1CCC=2C3=C(C(NC2C1)=O)C=CC=C3 | C17H20N2O3
